US07485634B2
To a solution of ethyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate (0.46 g, 1.8 mmol) in DCM (6 mL) was added 4-fluorobenzoyl chloride (0.26 mL, 1.2 equiv) and TEA (0.38 mL, 1.5 equiv) and the mixture was stirred for 1 hour at 20° C. Evaporation of solvent gave a crude product, which was purified by column chromatography on silica gel eluting with MeOH-DCM (1:9) to afford 3-(4-fluorobenzoyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester; (543 mg, 80%) MS (ES): 381 (MH+).

reactant | ethyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylate | 1.8 mmol, 0.46 g | C1CNCC(C=2NC=3C=CC=CC3C21)C(=O)OCC | C15H18N2O2
reactant | 4-fluorobenzoyl chloride | 0.26 mL, 1.2 equiv | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-fluorobenzoyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC2=C1NC=1C=CC=CC21)C(C2=CC=C(C=C2)F)=O | C22H21FN2O3
